US07645785B2
(2-Amino-5-fluoro-phenyl)-carbamic acid allyl ester
(2-Amino-4-fluoro-phenyl)-carbamic acid tert-butyl ester (5.0 g, 22 mmol, 1 equiv.) was added to a solution of DIPEA (3.62 ml, 22 mmol, 1 equiv.) in THF (80 ml). The mixture was cooled to 0° C. and allyl chloroformate (2.36 ml, 22 mmol, 1 equiv.) in THF added. The mixture was stirred at room temperature for 16 hours. The solvent was evaporated and the crude extracted from ethylacetate and aq. NaHCO3. The residue was taken up in DCM and trifluoroacetic acid (1:1) for 2 hours. The product was obtained after evaporation of the organic solvents.

reactant | (2-Amino-4-fluoro-phenyl)-carbamic acid tert-butyl ester | 22 mmol, 5.0 g, 1 equiv. | C(C)(C)(C)OC(NC1=C(C=C(C=C1)F)N)=O | C11H15FN2O2
reactant | DIPEA | 22 mmol, 3.62 ml, 1 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | allyl chloroformate | 22 mmol, 2.36 ml, 1 equiv. | ClC(=O)OCC=C | C4H5ClO2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | (2-Amino-5-fluoro-phenyl)-carbamic acid allyl ester | C(C=C)OC(NC1=C(C=CC(=C1)F)N)=O | C10H11FN2O2
